US06399619B1
Step A: 3-(1-(tert-Butoxycarbonyl)piperidin-4-yl)propionic acid
A solution of KOH (86%, 0.42 g, 6.4 mmol) in water (1.5 mL) was added to a solution of 3-(1-(tert-butoxycarbonyl)piperidin-4-yl)propionic acid ethyl ester in 95% EtOH (15 mL) at rt. After 2.5 h, the mixture was partitioned between EtOAc (50 mL) and 2 N aq. HCl (50 mL). After extraction of the aqueous layer with EtOAc (50 mL), the organic layers were washed with sat'd NaCl (25 mL), dried (Na2SO4), decanted, and evaporated to give 1.06 g of the title compound as a crystalline solid.

reactant | KOH | 6.4 mmol, 0.42 g | [OH-].[K+]
reactant | 3-(1-(tert-butoxycarbonyl)piperidin-4-yl)propionic acid ethyl ester | C(C)OC(CCC1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H27NO4
solvent | water | 1.5 mL | O | H2O
solvent | EtOH | 15 mL | CCO | C2H6O
product | 3-(1-(tert-Butoxycarbonyl)piperidin-4-yl)propionic acid | 1.06 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
